US04178460
Preparation of 3-Fluoro-4-methoxyphenylacetonitrile
A mixture of 4-(bromomethyl)-2-fluoroanisole (45.8 g, 0.21 mol), trihexylamine (1.4 g) and sodium cyanide (20.5 g, 0.42 mol) in water (50 ml) is heated at 60°-65° C. for 18 hours. The mixture is cooled and extracted in its ether, washed with water, saturated sodium chloride solution and dried (CNa2SO4). Evaporation of the solvent gives a solid, (33.2 g): m.p. 42°-46° C.

reactant | 4-(bromomethyl)-2-fluoroanisole | 0.21 mol, 45.8 g | BrCC1=CC(=C(C=C1)OC)F | C8H8BrFO
reactant | trihexylamine | 1.4 g | C(CCCCC)N(CCCCCC)CCCCCC | C18H39N
reactant | sodium cyanide | 0.42 mol, 20.5 g | [C-]#N.[Na+]
solvent | water | 50 ml | O | H2O
product | 3-Fluoro-4-methoxyphenylacetonitrile | FC=1C=C(C=CC1OC)CC#N | C9H8FNO
